US08232326B2
Synthesis of 2-(hydroxymethyl)-4-methoxy-6-((2-nitrophenyl)-diazenyl)-phenol
In a 500 ml round bottom flask equipped with a magnetic stirrer was added 19.9 g (144 mmol) 2-nitroaniline (Aldrich), HCl(aq), 100 ml deionized water, and 100 ml EtOH. The mixture was cooled to 0° C. and 10.6 g (153 mmol) sodium nitrite in 50 ml water was added dropwise over 60 minutes while keeping the reaction mixture between −10-0° C. The reaction mixture was stirred for an additional 1 hour. 300 mg sulfamic acid was added to destroy excess nitrite and the mixture was stirred for an additional 20 minutes. The solids were filtered and the filtrate containing the diazonium salt was set aside and kept cold at −10° C. NaOH (29.3 g, 731 mmol) was dissolved in 100 ml water and approximately one-fourth was added to a solution of (2-hydroxy-5-methoxy-1,3-phenylene)dimethanol in 100 ml deionized water and 200 ml ethanol. The diazonium salt mixture and remaining sodium hydroxide solution were added to the reaction mixture containing the phenol derivative over a 1 hour period at 0° C. The reaction mixture was allowed to stir at 0° C. for 1 hour and ambient temperature for 3 hours. The contents were poured into 3 liters water and the pH was adjusted to 6 using 1N HCl. The resultant solid was washed with several liters of water and then dried at 55° C. for 40 hours using P2O5 as drying agent to afford 24.4 g (55.8%) of a dark solid which was used in the next step without further purification.

reactant | 2-nitroaniline | 144 mmol, 19.9 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | HCl | Cl | ClH
reactant | sodium nitrite | 153 mmol, 10.6 g | N(=O)[O-].[Na+]
reactant | NaOH | 731 mmol, 29.3 g | [OH-].[Na+]
reactant | (2-hydroxy-5-methoxy-1,3-phenylene)dimethanol | OC1=C(C=C(C=C1CO)OC)CO | C9H12O4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | HCl | 1N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
catalyst | sulfamic acid | 300 mg | S(N)(O)(=O)=O | H3NO3S
solvent | water | 3 liters | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | EtOH | 100 ml | CCO | C2H6O
product | 2-(hydroxymethyl)-4-methoxy-6-((2-nitrophenyl)-diazenyl)-phenol | 24.4 g, 55.8% | OCC1=C(C(=CC(=C1)OC)N=NC1=C(C=CC=C1)[N+](=O)[O-])O | C14H13N3O5
